US08217066B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(1,3-dimethyl-3-phenyl-butyl)-amine:
Prepared according to the procedure described in Example 8, Step 1, using 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine and 4-methyl-4-phenyl-pentan-2-one.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | 4-methyl-4-phenyl-pentan-2-one | CC(CC(C)=O)(C)C1=CC=CC=C1 | C12H16O
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(1,3-dimethyl-3-phenyl-butyl)-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CC(C)(C1=CC=CC=C1)C)C | C22H25BrN2O
